US04659706
Following the general procedure of Example 4, 3-acetyl-8-methoxy-7-methylthio-2,3,4,5-tetrahydro-1H3-benzazepine is reacted with one equivalent of 3-chloroperbenzoic acid to give 3-acetyl-8-methoxy-7-methylsulfinyl-2,3,4,5-tetrahydro-1H-3-benzazepine. Following the procedure of Example 4, 3-acetyl-8-methoxy-7-methylsulfinyl-2,3,4,5-tetrahydro-1H-3-benzazepine is reacted with 3N hydrochloric acid to give 8-methoxy-7-methylsulfinyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride. This methoxy compound is treated with pyridine hydrochloride to give 8-hydroxy-7-methylsulfinyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride.

reactant | 3-acetyl-8-methoxy-7-methylsulfinyl-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)(=O)N1CCC2=C(CC1)C=C(C(=C2)S(=O)C)OC | C14H19NO3S
reactant | hydrochloric acid | 3N | Cl | ClH
product | 8-methoxy-7-methylsulfinyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.COC=1C(=CC2=C(CCNCC2)C1)S(=O)C | InChI=1S/C12H17NO2S.ClH/c1-15-11-7-9-3-5-13-6-4-10(9)8-12(11)16(2)14;/h7-8,13H,3-6H2,1-2H3;1H
